US05374643
A solution of [3-(1H-tetrazol-5-yl)phenyl]amine (0.97 g, 0.006 mol) in acetonitrile (25 mL), dimethylformamide (3 mL) and pyridine (0.97 mL, 0.95 g, 0.012 mol) under argon at 0° was treated with p-nitrophenyl chloroformate (1.21 g, 0.006 mol) and was stirred at room temperature overnight The reaction mixture was concentrated in vacuo and an effort was made to partition the remaining oil between ethyl acetate and 1M HCl, resulting in separation of a pink solid insoluble in either phase. The solid was sintered off and the organic layer was dried over magnesium sulfate, concentrated in vacuo to give additional product The two crops were combined, triturated with wet ether and dried in vacuo to yield 1.52 g of 3-(1H-tetrazol-5-yl)phenylcarbamic acid, 4-nitrophenyl ester, m.p. 186°-188° C. TLC, silica gel, EtOAc/MeOH/HOAc (20:1:.2), Rf =0.65; M.S. (M+H)+ at 327, M.W. 326. This material was used without further purification.

reactant | [3-(1H-tetrazol-5-yl)phenyl]amine | 0.006 mol, 0.97 g | N1N=NN=C1C=1C=C(C=CC1)N | C7H7N5
reactant | pyridine | 0.012 mol, 0.97 mL, 0.95 g | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 0.006 mol, 1.21 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-(1H-tetrazol-5-yl)phenylcarbamic acid, 4-nitrophenyl ester | 1.52 g | N1N=NN=C1C=1C=C(C=CC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H10N6O4
